US04324796
Sodium 2-[5-(4-chlorophenyl)pentyl]oxirane-2-carboxylate
A mixture of 8.05 g of 2-[5-(4-chlorophenyl)pentyl]oxirane 2-carboxylic acid ethyl ester, 27 ml of tetrahydrofuran and 27 ml of 1 N sodium hydroxide solution is stirred for about 1 hour until a clear solution has formed. The solution is concentrated and the colorless residue is recrystallized from ethanol/diethyl ether. 6.5 g of the title compound of m.p. 136° to 142° C. are obtained.

reactant | 2-[5-(4-chlorophenyl)pentyl]oxirane 2-carboxylic acid ethyl ester | 8.05 g | C(C)OC(=O)C1(OC1)CCCCCC1=CC=C(C=C1)Cl | C16H21ClO3
reactant | sodium hydroxide | 1 N, 27 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
product | Sodium 2-[5-(4-chlorophenyl)pentyl]oxirane-2-carboxylate | 6.5 g | ClC1=CC=C(C=C1)CCCCCC1(OC1)C(=O)[O-].[Na+] | InChI=1S/C14H17ClO3.Na/c15-12-7-5-11(6-8-12)4-2-1-3-9-14(10-18-14)13(16)17;/h5-8H,1-4,9-10H2,(H,16,17);/q;+1/p-1
